US07745641B2
In a similar manner to Step 1 of Example 16, 3-chloro-4-fluorobenzoyl chloride (3.00 g, 15.5 mmol) was dissolved in dichloromethane (60 mL), and the solution was treated with cumylamine (2.45 mL, 17.1 mmol), triethylamine (3.24 mL, 23.3 mmol) and DMAP (189 mg, 1.05 mmol), followed by purification by slurry using diisopropylether to obtain 3-chloro-4-fluoro-N-(1-methyl-1-phenylethyl)benzamide (4.39 g, yield 97%).

reactant | 3-chloro-4-fluorobenzoyl chloride | 15.5 mmol, 3.00 g | ClC=1C=C(C(=O)Cl)C=CC1F | C7H3Cl2FO
reactant | cumylamine | 17.1 mmol, 2.45 mL | C(C)(C)(C1=CC=CC=C1)N | C9H13N
reactant | triethylamine | 23.3 mmol, 3.24 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
catalyst | DMAP | 1.05 mmol, 189 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-chloro-4-fluoro-N-(1-methyl-1-phenylethyl)benzamide | 4.39 g, yield 97% | ClC=1C=C(C(=O)NC(C)(C2=CC=CC=C2)C)C=CC1F | C16H15ClFNO
